US05756706
A solution of disiamylborane was prepared by mixing 35 mL of BH3THF (1 M in THF) and 35 mL of 2-methyl-2-butene (2 M in THF) at 0° C. followed stirring at 0° C. for 75 minutes. To this solution was introduced 2R-carboethoxy-5-oxotetrahydrofuran dissolved in THF (6 mL). The resultant mixture was allowed to warm slowly to room temperature over a period of 2.5 hours and then was stirred for another 15 hours. Saturated ammonium chloride solution was added, followed by dilution with EtOAc. The above mixture was stirred for 10 minutes and then was transferred to a separatory funnel. The organic phase was washed successively with saturated NH4Cl, brine, and then was dried (Na2SO4). The solvent was removed on a rotary evaporator and the crude product obtained was purified by column chromatography (40% EtOAc-Hexanes). The desired products were isolated in 70% yield (2.05 g) as a 2:3 mixture of isomer epimeric at C5. Trace amount of the open form isomer was also detected (1H NMR). The title compounds displayed the following spectral characteristics: 1H NMR (CDCl3): 6 1.28 (t, 2H, J=7.1 Hz), 1.30 (t, 1H, J=7.1 Hz), 1.85-2.70 (m, 4H), 2.59 -(d, 0.33H, J=5.5 Hz), 2.88 (d, 0.67H, J=3.1 Hz), 4.154.65 (m, 2H), 4.57 (d of d, 0.33H, J=6.4, 8.3 Hz), 4.70 (d of d, 0.67H, J=4.1, 8.7 Hz), 5.59 (m, 0.33H), 5.74 (m, 0.67H).

reactant | BH3THF | 1 M, 35 mL | B.C1CCOC1
reactant | 2-methyl-2-butene | 2 M, 35 mL | CC(C)=CC | C5H10
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | disiamylborane | C(C)(C(C)C)BC(C)C(C)C | C10H23B
